US04657915
A mixture containing 5.6 g of 5-bromo-1,6-naphthyridin-2(1H)-one, 100 ml of dimethylformamide and 6.9 g of 1,2,4-triazole was refluxed on an oil bath for 21 hours and then allowed to cool. The separated solid was collected, washed with ethanol and dried in a vacuum oven at 90° C. to yield 2.8 g of 5-(1H-1,2,4-triazol-1-yl)-1,6-naphthyridin-2(1H)-one, m.p.>300° C.

reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 5.6 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
reactant | 1,2,4-triazole | 6.9 g | N1N=CN=C1 | C2H3N3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(1H-1,2,4-triazol-1-yl)-1,6-naphthyridin-2(1H)-one | 2.8 g | N1(N=CN=C1)C1=C2C=CC(NC2=CC=N1)=O | C10H7N5O
